US07947851B2
5-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2-hydroxybenzoic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methylamino)glucitol) salt
To a solution of the 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2-hydroxybenzoic acid (1650 mg, 3.41 mmol) in freshly distilled THF (20 mL) was added a solution of N-methyl-D-glucamine (666 mg) in water (4 mL). Water (200 mL) was added and the resulting solution was lyophilized to give 1.93 g (81%) of the title compound as a pale yellow powder. HPLC, Rt: 4.8 min (purity: 98.8%). LC/MS, M+(ESI): 484.0, M−(ESI): 482.0.

reactant | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2-hydroxybenzoic acid | 3.41 mmol, 1650 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)CCCCCC)C=C1 | C32H37NO3
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | N-methyl-D-glucamine | 666 mg | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
solvent | water | 4 mL | O | H2O
solvent | Water | 200 mL | O | H2O
product | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2-hydroxybenzoic acid N-methyl-D-glucamine | 1.93 g, 81% | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)CCCCCC)C=C1 | InChI=1S/C32H37NO3.C7H17NO5/c1-3-5-7-8-22-33(29-20-21-31(34)30(23-29)32(35)36)24-28-18-16-27(17-19-28)15-14-26-12-10-25(11-13-26)9-6-4-2;1-8-2-4(10)6(12)7(13)5(11)3-9/h10-13,16-21,23,34H,3-9,22,24H2,1-2H3,(H,35,36);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
